US08461134B2
To 2,2,2-trifluoro-N-(3-(3-oxobutyl)phenyl)acetamide (2 g, 8 mmol) was added HOSO2Cl (9 g, 77 mmol) dropwise at 0° C. The mixture was stirred at r.t. for 3 hrs. The reaction mixture was diluted with DCM and washed with water, the organics was dried over Na2SO4 and concentrated to give 2-(3-oxobutyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (1.5 g, yield 54%). 1H NMR: (400 MHz, CDCl3) δ 8.05 (s, 1H), 7.76 (d, 1H), 7.70 (t, 1H), 7.63 (d, 1H), 3.31 (t, 2H), 2.82 (t, 2H), 2.14 (s, 3H).

reactant | 2,2,2-trifluoro-N-(3-(3-oxobutyl)phenyl)acetamide | 8 mmol, 2 g | FC(C(=O)NC1=CC(=CC=C1)CCC(C)=O)(F)F | C12H12F3NO2
reactant | HOSO2Cl | 77 mmol, 9 g | OS(=O)(=O)Cl | ClHO3S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(3-oxobutyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 1.5 g, yield 54% | O=C(CCC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl)C | C12H11ClF3NO4S
